US07888366B2
To a stirred solution of 3,4-(methylenedioxy)mandelic acid (1.5 g, 7.65 mmol) in tetrahydrofuran was added lithium aluminum hydride (0.58 g, 15.29 mmol). The reaction mixture was refluxed for 1.5 hours. The reaction mixture was cooled (0° C.), quenched with sat. ammonium chloride solution, filtered, concentrated to yield 1.3 g of 1-benzo[1,3]dioxol-5-yl-ethane-1,2-diol

reactant | 3,4-(methylenedioxy)mandelic acid | 7.65 mmol, 1.5 g | C1OC=2C=C(C(C(=O)O)O)C=CC2O1 | C9H8O5
reactant | lithium aluminum hydride | 15.29 mmol, 0.58 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-benzo[1,3]dioxol-5-yl-ethane-1,2-diol | 1.3 g | O1COC2=C1C=CC(=C2)C(CO)O | C9H10O4
